US05646308
A mixture of 84 mg of 2,2-bis(fluoromethyl)-N-methyl-6-nitro-2H-1-benzopyran-4-carbothioamide, 140 mg of 2-chloro-1-methylpyridinium iodide, 0.06 ml of triethylamine and 2 ml of dried tetrahydrofuran was refluxed with heating for 2 hours. After the reaction solution was cooled to room temperature, 42 mg of cyanamide and 38 mg of sodium hydride (60%) were added therein and the resultant mixture was refluxed with heating for 4 hours. Ice water was added therein and the mixture was extracted with methylene chloride. An organic layer was washed with water and dried, and the solvent was distilled. The obtained residue was purified according to silica gel column chromatography (developing solution, MeOH:CH2Cl2 =1:99). The resultant product was recrystallized by a mixed solvent of ethyl acetate and hexane to obtain 21.5 mg of N-cyano-2,2-bis(fluoromethyl)-N'-methyl-6-nitro-2H-1-benzopyran-4-amidine with a melting point of 259°-261° C.

reactant | 2,2-bis(fluoromethyl)-N-methyl-6-nitro-2H-1-benzopyran-4-carbothioamide | 84 mg | FCC1(OC2=C(C(=C1)C(NC)=S)C=C(C=C2)[N+](=O)[O-])CF | C13H12F2N2O3S
reactant | 2-chloro-1-methylpyridinium iodide | 140 mg | [I-].ClC1=[N+](C=CC=C1)C
reactant | cyanamide | 42 mg | N#CN | CH2N2
reactant | sodium hydride | 38 mg | [H-].[Na+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 0.06 ml | C(C)N(CC)CC | C6H15N
product | N-cyano-2,2-bis(fluoromethyl)-N'-methyl-6-nitro-2H-1-benzopyran-4-amidine | 21.5 mg | C(#N)NC(=NC)C1=CC(OC2=C1C=C(C=C2)[N+](=O)[O-])(CF)CF | C14H12F2N4O3
